spice
* NMOS Transistor M1
M1 2 4 7 7 NMOS 

* Current Source I1
I1 5 2 DC 1A

* Resistor rO
rO 2 3 1k

* Voltage Source Vin
Vin 7 6 DC 1V

* Simulation Control
.tran 1n 10n

* Models
.model NMOS NMOS (Level=1)